US07417064B2
1-(Benzyl-methyl-amino)-hexan-3-ol
Using a method similar to that for 1-(Benzyl-methyl-amino)-heptan-3-ol, 1-(benzyl-methyl-amino)-hexan-3-one affords the title compound: mass spectrum (ion spray) m/z=222 (M+1); 1H NMR (CDCl3) δ 7.34-7.24 (m, 5H), 3.79-3.73 (m, 1H), 3.55 (dd, 2H), 2.81-2.74 (m, 1H), 2.59-2.55 (m, 1H), 2.22 (s, 3H), 1.72-1.62 (m, 1H), 1.56-1.31 (m, 5H), 0.93 (t, 3H).

reactant | 1-(Benzyl-methyl-amino)-heptan-3-ol | C(C1=CC=CC=C1)N(CCC(CCCC)O)C | C15H25NO
reactant | 1-(benzyl-methyl-amino)-hexan-3-one | C(C1=CC=CC=C1)N(CCC(CCC)=O)C | C14H21NO
product | 1-(Benzyl-methyl-amino)-hexan-3-ol | C(C1=CC=CC=C1)N(CCC(CCC)O)C | C14H23NO
